US03950320
Preparation of 5-chloro-3-methyl-6-{7-ethyl-4-hydroxy-3,5-dimethyl-6-oxo-7-[5-ethyl-3-methyl-5-(5-ethyl-5-hydroxy-6-methyl-2-tetrahydropyranyl)-2-tetrahydrofuryl]heptyl}salicylic acid
To a cold solution (~3°) of 6.12 g. of the sodium salt of antibiotic X-537A in 50 ml. of chloroform/3 ml. of carbon tetrachloride was slowly added 34 ml. of carbon tetrachloride saturated with 10 millimoles of chlorine gas. The reaction was continued for 1/2 hour after which the solution was filtered and the filtrate treated with a saturated aqueous solution of Na2CO3. The solvent layer was dried over Na2SO4 and concentrated to a small volume from which after addition of hexane the crystalline product was recovered. The crystalline material which had a tendency to incorporate the solvent of crystallization was twice recrystallized from methylene chloride/ether and acetone/hexane, m.p. 183°-185°, [α]D25 -44.31° (C, 0.99%, CHCl3).

reactant | sodium | [Na] | Na
reactant | X-537A | CC[C@H]([C@@H]1[C@H](C[C@@](O1)(CC)[C@H]2CC[C@@]([C@@H](O2)C)(CC)O)C)C(=O)[C@@H](C)[C@H]([C@H](C)CCC3=C(C(=C(C=C3)C)O)C(=O)O)O | C34H54O8
reactant | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
reactant | chlorine | 10 millimoles | ClCl | Cl2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-chloro-3-methyl-6-{7-ethyl-4-hydroxy-3,5-dimethyl-6-oxo-7-[5-ethyl-3-methyl-5-(5-ethyl-5-hydroxy-6-methyl-2-tetrahydropyranyl)-2-tetrahydrofuryl]heptyl}salicylic acid | ClC1=CC(=C(C(C(=O)O)=C1CCC(C(C(C(C(C1OC(CC1C)(C1OC(C(CC1)(O)CC)C)CC)CC)=O)C)O)C)O)C | C34H53ClO8
